US07202350B2
A solution of 1.5 M hexane (21 ml) of n-butyllithium was added dropwise to a solution of 6,7-dimethyl-benzofuran (4.1 g) in tetrahydrofuran (100 ml) at −78° C. under an argon atmosphere, and the mixture was stirred for half an hour. Then, chloro tri-n-butyltin (8.4 ml) was added to the mixture, and the mixture was stirred for one hour. Aqueous solution of saturated ammonium chloride was added to the reaction mixture, and extracted with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (n-hexane) to obtain tri-n-butyl(6,7-dimethyl-benzofuran-2-yl) tin (10.8 g).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 6,7-dimethyl-benzofuran | 4.1 g | CC1=C(C2=C(C=CO2)C=C1)C | C10H10O
reactant | chloro tri-n-butyltin | 8.4 ml | Cl[Sn](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.5 M, 21 ml | CCCCCC | C6H14
product | tri-n-butyl(6,7-dimethyl-benzofuran-2-yl) tin | 10.8 g | C(CCC)[Sn](C=1OC2=C(C1)C=CC(=C2C)C)(CCCC)CCCC | InChI=1S/C10H9O.3C4H9.Sn/c1-7-3-4-9-5-6-11-10(9)8(7)2;3*1-3-4-2;/h3-5H,1-2H3;3*1,3-4H2,2H3;
